US06239074B1
3-[3-(2-Bromo-2-methoxyethoxycarbonylethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.104)
0.52 ml of methoxyethyl bromide was added to a solution of 2.27 g of 3-[3-(2-bromo-2-carboxyethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine and 0.76 g of potassium carbonate in dimethylformamide, and the resulting solution was stirred for 17 hours. Thereafter, 100 ml of water were added and the aqueous phase was extracted with twice 100 ml of dichloromethane. The combined organic phases were washed with three times 50 ml of water, dried over sodium sulfate and evaporated down. After flash chromatography (dichloromethane→9:1 dichloromethane/ethyl acetate), the title compound was obtained as an oil.

reactant | methoxyethyl bromide | 0.52 ml | COCCBr | C3H7BrO
reactant | 3-[3-(2-bromo-2-carboxyethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 2.27 g | BrC(=CC=1C=C(C=CC1Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(=O)O | C15H9BrClF3N2O4
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[3-(2-Bromo-2-methoxyethoxycarbonylethenyl)-4-chlorophenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | BrC(=CC=1C=C(C=CC1Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(=O)OCCOC | C18H15BrClF3N2O5
